US04093812
Stir together 2 g of 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde, 0.65 g of N,N-dimethylhydrazine, 2 drops of glacial acetic acid and 30 ml of ethanol for 4 hours at room temperature. Add 30 ml of water dropwise thereto to obtain a 96% yield of 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde-dimethylhydrazone [m.p. 164° to 165° C].

reactant | 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde | 2 g | CN1N=C(C(=C1)C=O)C=1OC(=CC1)[N+](=O)[O-] | C9H7N3O4
reactant | N,N-dimethylhydrazine | 0.65 g | CN(N)C | C2H8N2
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | water | 30 ml | O | H2O
product | 1-methyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde-dimethylhydrazone | 96% yield | CN(N=CC=1C(=NN(C1)C)C=1OC(=CC1)[N+](=O)[O-])C | C11H13N5O3
